US07326732B2
(iii) 3-[(9H-Fluoren-9-ylmethoxycarbonylamino)-methyl]-benzoic acid methyl ester
3-[(9H-Fluoren-9-ylmethoxycarbonylamino)-methyl]-benzoic acid (200 mg, 0.54 mmol) was esterified with MeOH using Method B to give the title compound.

reactant | 3-[(9H-Fluoren-9-ylmethoxycarbonylamino)-methyl]-benzoic acid | 0.54 mmol, 200 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC=1C=C(C(=O)O)C=CC1 | C23H19NO4
reactant | MeOH | CO | CH4O
product | 3-[(9H-Fluoren-9-ylmethoxycarbonylamino)-methyl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C24H21NO4
